US06476045B2
6-Methyl-2-(4-methylphenyl)imidazo[1,2-a]pyridine
A solution of 2-bromo-1-(4-methylphenyl)ethanone (99.3 g, 0.47 mol) in dimethylformamide (250 mL) was added slowly to a solution of 5-methyl-2-pyridinamine (50.4 g, 0.47 mol) in dimethylformamide (250 mL). Sodium hydrogen carbonate (78.3 g, 0.93 mol) was added in portions and the mixture was stirred at room temperature for 15 min., then under reflux for 1.5 h. The mixture was cooled and poured into water (2500 mL). The solid was collected, washed with water (1000 mL) and recrystallised from dimethylformamide (400 mL). The solid was collected and dried in vacuo at 120° C. to give the title compound (89 g, 86%). 1H NMR (360 MHz, DMSO-d6) δ 8.30 (1H, d, J 1.5 Hz), 8.23 (1H, s), 7.84 (2H, d, J 8.0 Hz), 7.47 (1H, d, J 9.2 Hz), 7.25 (2H, d, J 8.0 Hz), 7.09 (1H, dd, J 9.2, 1.5 Hz), 2.33 (3H, s), and 2.28 (3H, s).

reactant | 2-bromo-1-(4-methylphenyl)ethanone | 0.47 mol, 99.3 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | 5-methyl-2-pyridinamine | 0.47 mol, 50.4 g | CC=1C=CC(=NC1)N | C6H8N2
reactant | Sodium hydrogen carbonate | 0.93 mol, 78.3 g | C(O)([O-])=O.[Na+]
reactant | water | 2500 mL | O | H2O
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 6-Methyl-2-(4-methylphenyl)imidazo[1,2-a]pyridine | 89 g, 86% | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C | C15H14N2
